US06777421B2
To a stirring mixture of 2-bromophenethyl alcohol (0.72 mL, 5.31 mmol) and tetrakis (triphenylphosphine) palladium (0) (620 mg, 10 mol %) in 1,2-dimethoxyethane (45 mL) was added thiophene-2-boronic acid (2.0391 g, 0.0159 mol) and 1 N aqueous NaHCO3 (15 mL). The resultant reaction mixture was heated at reflux for 66 h under argon atmosphere. The dark reaction mixture was diluted with H2O (20 mL) and extracted with EtOAc (2×75 mL). The organic solution was dried over Na2SO4, filtered and concentrated. The dark residue was purified by flash chromatography on silica gel (30% EtOAc in hexane) to yield 2-(2-thienyl)phenethyl alcohol as a light yellow oil.

reactant | 2-bromophenethyl alcohol | 5.31 mmol, 0.72 mL | BrC1=C(CCO)C=CC=C1 | C8H9BrO
reactant | thiophene-2-boronic acid | 0.0159 mol, 2.0391 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | NaHCO3 | 1 N, 15 mL | C(=O)(O)[O-].[Na+]
solvent | 1,2-dimethoxyethane | 45 mL | COCCOC | C4H10O2
solvent | H2O | 20 mL | O | H2O
catalyst | tetrakis (triphenylphosphine) palladium (0) | 620 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(2-thienyl)phenethyl alcohol | S1C(=CC=C1)C1=C(CCO)C=CC=C1 | C12H12OS
